US07868003B2
1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-pyrrolidin-2-one hydrochloride
4-Chloro-N-[2-((R)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-butyramide (249 mg) was dissolved in abs. DMSO (10 ml) and finely powdered and dried potassium carbonate (250 mg) was added. With exclusion of moisture, the mixture was stirred vigorously at room temperature for 4 h. After standing overnight, the reaction mixture was diluted with water (50 ml) and then extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC. The fractions comprising product were combined, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with sodium hydrogencarbonate and extracted three times with ethyl acetate. After the combined ethyl acetate phases had been dried over magnesium sulfate, they were filtered and concentrated to dryness. The residue was dissolved in water/acetonitrile and adjusted to pH 2 with 0.1 N HCl. After freeze-drying overnight, the desired product (116 mg) was obtained as a white powder.

reactant | 4-Chloro-N-[2-((R)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-butyramide | 249 mg | ClCCCC(=O)NC1=C(C=CC=C1)[C@@H]1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C20H21Cl3N2O
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | 1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-pyrrolidin-2-one hydrochloride | 116 mg | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(CCC1)=O | InChI=1S/C20H20Cl2N2O.ClH/c1-23-11-16(15-9-13(21)10-18(22)17(15)12-23)14-5-2-3-6-19(14)24-8-4-7-20(24)25;/h2-3,5-6,9-10,16H,4,7-8,11-12H2,1H3;1H/t16-;/m0./s1
